US06593354B2
3(R)-(4-Nitrophenyl)butanoic acid
(R)-3-phenylbutanoic acid (10.0 g) was added to concentrated sulphuric acid (40 mL) at −5° C. under nitrogen. The resulting thick gel-like mixture was stirred vigorously and fuming nitric acid (2.8 mL) was added slowly over 20 minutes. The reaction mixture was poured onto a mixture of ice and water (500 mL) and the resulting white precipitate was collected by filtration, then washed thoroughly with water, and then dried to give the title compound (10.1 g) as a white solid.

reactant | (R)-3-phenylbutanoic acid | 10.0 g | C1(=CC=CC=C1)[C@@H](CC(=O)O)C | C10H12O2
reactant | sulphuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.8 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 500 mL | O | H2O
product | 3(R)-(4-Nitrophenyl)butanoic acid | 10.1 g | [N+](=O)([O-])C1=CC=C(C=C1)[C@@H](CC(=O)O)C | C10H11NO4
